US08703793B2
5-(S)-[5-(tert-Butyl-dimethyl-silanyloxy)-4-cyclopentyl-2-isopropenyl-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethyl-phenyl)-methanol (Diastereomer 2)
125 mg 5-(S)-[5-(tert-Butyl-dimethyl-silanyloxy)-4-cyclopentyl-2-isopropenyl-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethyl-phenyl)-methanone are dissolved in 10 ml tetrahydrofurane cooled to 0° C. and mixed with 890 μl of a 1 M solution of lithium ammonium hydride in tetrahydrofurane. The mixture is stirred for 2 h, diluted with ethylacetate and mixed with 890 μl of a 1 M hydrochloric acid. Then the mixture is dried with magnesium sulphate, the solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 95:5 to 70:30).

reactant | 5-(S)-[5-(tert-Butyl-dimethyl-silanyloxy)-4-cyclopentyl-2-isopropenyl-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethyl-phenyl)-methanone | 125 mg | C(C)(C)(C)[Si](O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(=C)C)C=1C(=CC=C(C1)C=O)C(F)(F)F)C1CCCC1)(C)C | C33H44F3NO2Si
reactant | lithium ammonium hydride | [H-].[NH4+].[Li]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 5-(S)-[5-(tert-Butyl-dimethyl-silanyloxy)-4-cyclopentyl-2-isopropenyl-7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-3-yl]-(4-trifluoromethyl-phenyl)-methanol | C(C)(C)(C)[Si](O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(=C)C)C=1C(=CC=C(C1)CO)C(F)(F)F)C1CCCC1)(C)C | C33H46F3NO2Si
